US04980371
When in the procedure of Example 1 (B) an appropriate amount of 5-(9,12,15-octadecatrien-1-yloxy)-2-furoic acid is substituted for 5-(tetradecyloxy)-2-furoic acid, and an appropriate amount of ethyl magnesium bromide is substituted for methyl magnesium bromide, ethyl 5-(9,12,15-octadecatrien-1-yloxy)-2-furyl ketone is obtained.

reactant | 5-(9,12,15-octadecatrien-1-yloxy)-2-furoic acid | C(CCCCCCCC=CCC=CCC=CCC)OC1=CC=C(O1)C(=O)O | C23H34O4
reactant | 5-(tetradecyloxy)-2-furoic acid | C(CCCCCCCCCCCCC)OC1=CC=C(O1)C(=O)O | C19H32O4
reactant | ethyl magnesium bromide | C(C)[Mg]Br
reactant | methyl magnesium bromide | C[Mg]Br
product | ethyl 5-(9,12,15-octadecatrien-1-yloxy)-2-furyl ketone | C(CCCCCCCC=CCC=CCC=CCC)OC1=CC=C(O1)C(=O)CC | C25H38O3
